US07091232B2
A solution of 5-(2-benzyloxy-ethyl)-2-hydroxy-cyclohexanecarboxylic acid methyl ester (Intermediate R2, 0.72 g, 2.48 mmol) in pyridine (10 mL) was treated with SOCl2 (0.73 mL, 12.4 mmol) at −20° C. The mixture was allowed to react for 15 m and was then warmed to 55° C. for 16 h. The solvents were removed under vacuum and the residue was diluted in ether at 0° C. The solution was quenched with water, washed with 1M HCl, 5% NaOH and brine. The organic material was dried over MgSO4 filtered and freed of solvent. The mixture was diluted with benzene and water was removed by azeotropic distillation under vacuum. The residue was dissolved in benzene (15 mL) and DBU (0.76 mL, 5 mmol) was added. The mixture was reacted for 30 m at rt. After work-up and chromatography on SiO2 with 20% EtOAc:Hx 5-(2-benzyloxy-ethyl)-cyclohex-1-enecarboxylic acid methyl ester (Intermediate R3) was isolated 0.56 g (82%).

reactant | 5-(2-benzyloxy-ethyl)-2-hydroxy-cyclohexanecarboxylic acid methyl ester | 2.48 mmol, 0.72 g | COC(=O)C1C(CCC(C1)CCOCC1=CC=CC=C1)O | C17H24O4
reactant | SOCl2 | 12.4 mmol, 0.73 mL | O=S(Cl)Cl | Cl2OS
reactant | DBU | 5 mmol, 0.76 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 5-(2-benzyloxy-ethyl)-cyclohex-1-enecarboxylic acid methyl ester | COC(=O)C1=CCCC(C1)CCOCC1=CC=CC=C1 | C17H22O3
